US05534518
This compound was prepared in a manner analogous to that of Step E of Example 1, using 1.5 grams (0.005 mole) of 2-amino-6-chloro-5-(3,5-dichlorophenyl)benzonitrile and 0.7 gram (0.006 mole) of chloroformamidine hydrochloride in 10 mL of 2-methoxyethyl ether. The solid was recrystallized from methanol, yielding 0.5 gram of 2,4-diamino-5-chloro-6-(3,5-dichlorophenyl)quinazoline. The NMR spectrum was consistent with the proposed structure; however, methanol was present in the sample.

reactant | 2-amino-6-chloro-5-(3,5-dichlorophenyl)benzonitrile | 0.005 mole, 1.5 grams | NC1=C(C#N)C(=C(C=C1)C1=CC(=CC(=C1)Cl)Cl)Cl | C13H7Cl3N2
reactant | chloroformamidine hydrochloride | 0.006 mole, 0.7 gram | Cl.ClC(=N)N
solvent | 2-methoxyethyl ether | 10 mL | COCCOCCOC | C6H14O3
product | 2,4-diamino-5-chloro-6-(3,5-dichlorophenyl)quinazoline | 0.5 gram | NC1=NC2=CC=C(C(=C2C(=N1)N)Cl)C1=CC(=CC(=C1)Cl)Cl | C14H9Cl3N4
